US06048864
(b) Methyl 3,4-dimethoxy-2-methanesulfonyloxybenzoate
Methanesulfonyl chloride (634 μl, 0.008 mol) was added dropwise to an ice-cooled solution of methyl 3,4-dimethoxy-2-hydroxybenzoate (1.58 g, 0.0075 mol) and triethylamine (1.27 ml, 0.009 mol) in dichloromethane (30 ml) and the reaction then allowed to warm to room temperature, with stirring. The reaction mixture was washed with water (2×25 ml) and the organic layer dried (MgSO4), filtered and evaporated under reduced pressure. The crude product was purified on silica gel eluting with a solvent gradient of diethyl ether:hexane (60:40 to 100:0, v/v) to give the subtitle compound as a colourless oil that crystallised on standing (1.94 g, 90%). MS m/z 308 (MNH4)+.

reactant | Methanesulfonyl chloride | 0.008 mol, 634 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | methyl 3,4-dimethoxy-2-hydroxybenzoate | 0.0075 mol, 1.58 g | COC=1C(=C(C(=O)OC)C=CC1OC)O | C10H12O5
reactant | triethylamine | 0.009 mol, 1.27 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | Methyl 3,4-dimethoxy-2-methanesulfonyloxybenzoate | COC=1C(=C(C(=O)OC)C=CC1OC)OS(=O)(=O)C | C11H14O7S
